US07812022B2
To a solution of 3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]aniline (0.31 g) in THF (10 mL) was added 2,6-difluorobenzoyl chloride (0.18 g). The reaction was kept stirring at rt for 0.5 h and worked up with sat. NaHCO3 solution (8 mL). After extraction with EtOAc (2×10 mL), drying with Na2SO4, and concentration, the crude mixture was purified through silica gel column chromatography to afford N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide as a yellow solid (0.42 g, 95%). ESIMS (M+H)+=480.

reactant | 3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]aniline | 0.31 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(N)C=CC2 | C17H11ClFN5
reactant | 2,6-difluorobenzoyl chloride | 0.18 g | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | NaHCO3 | 8 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-{3-[3-(2-chloro-4-pyrimidinyl)-4-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,6-difluorobenzamide | 0.42 g, 95% | ClC1=NC=CC(=N1)C=1C(=NN2C1C(=CC=C2)F)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O | C24H13ClF3N5O
